US07335660B2
b) (1S)-1-(2-{[tert-Butyl(diphenyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-carbaldehyde
To a stirred solution of 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl tert-butyl(diphenyl)silyl ether (2.5 g, 5.05 mmol) in dry THF (60 mL), cooled to −78° C. under nitrogen, was slowly added n-butyllithium (2.5M in THF) (5.4 mL, 13.5 mmol). After 30 min stirring at −78° C., dry dimethylformamide (3.5 mL, 45 mmol) was added and the reaction allowed to warm to room temperature overnight. The reaction was quenched by addition of water and extracted into ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4), filtered and evaporated in vacuo. The resultant yellow oil was purified by flash chromatography on silica, eluting with ethyl acetate/hexane (0:4 to 1:3), to yield the title compound as a colourless oil.

reactant | 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethyl tert-butyl(diphenyl)silyl ether | 5.05 mmol, 2.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)Br | C27H31BrO2Si
reactant | n-butyllithium | 13.5 mmol, 2.5M, 5.4 mL | C(CCC)[Li]
reactant | dimethylformamide | 45 mmol, 3.5 mL | CN(C=O)C | C3H7NO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (1S)-1-(2-{[tert-Butyl(diphenyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-carbaldehyde | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)C=O | C28H32O3Si
